US05428041
To a solution of α,α-bis(trifluoromethyl)-4,5-bis(4-fluorophenyl)-1-methyl-1H-imidazole-2-methanamine (3.38 gr, 7.8 mmole) in pyridine (1.7 gr) was added cyclohexane carbonyl chloride (3.5 gr, 23.9 mmole). The reaction mixture was heated at 130° C. for 4 hours. The mixture was purified by column chromatography, eluting with hexane, then mixture of hexane-ethylacetate (9:1) to give 5-cyclohexyl-2,3-bis(4-fluorophenyl)-7,7-bis(trifluoromethyl)-7H-imidazo[1,5-A]-imidazole (1.88 gr, 37%) as a white solid: mp 162.2-162.6. Anal. Calcd for C25H19F8N3 :C,58.60;H,3.54;N,8.20. Found: C,58.43;H,3.79;N,8.16.

reactant | α,α-bis(trifluoromethyl)-4,5-bis(4-fluorophenyl)-1-methyl-1H-imidazole-2-methanamine | 7.8 mmole, 3.38 gr | FC(C(N)(C=1N(C(=C(N1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C)C(F)(F)F)(F)F | C19H13F8N3
reactant | cyclohexane carbonyl chloride | 23.9 mmole, 3.5 gr | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | pyridine | 1.7 gr | N1=CC=CC=C1 | C5H5N
product | 5-cyclohexyl-2,3-bis(4-fluorophenyl)-7,7-bis(trifluoromethyl)-7H-imidazo[1,5-A]-imidazole | 1.88 gr, 37% | C1(CCCCC1)C1=NC(C=2N1C(=C(N2)C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)(C(F)(F)F)C(F)(F)F | C25H19F8N3
